US07820680B2
Step 6: N,N-dimethyl [1-(4-fluorobenzyl)-6-oxo-piperazin-2-yl]acetamide
A suspension of N,N-dimethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetamide (0.5 g, 1.17 mmol) and 10% palladium on carbon (120 mg; 0.11 mmol) in ethanol (25 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature overnight. The reaction mixture was filtered through a pad of Celite, and concentrated under vacuum to provide the title compound. 1H NMR (400 MHz, CDCl3) δ 7.24-7.28 (m, 2H), 7.01 (t, J=8.6 Hz, 2H), 5.06 (d, J=14.8 Hz, 1H), 4.06 (d, J=14.8 Hz, 1H), 3.87-3.94 (m, 1H), 3.57-3.69 (m, 2H), 2.88-3.08 (m, 9H), 2.48 (d, J=16.3 Hz, 1H). ES MS (M+1)=294.3

reactant | N,N-dimethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetamide | 1.17 mmol, 0.5 g | CN(C(CC1N(C(CN(C1)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)F)=O)C | C23H26FN3O4
catalyst | palladium on carbon | 0.11 mmol, 120 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N,N-dimethyl [1-(4-fluorobenzyl)-6-oxo-piperazin-2-yl]acetamide | CN(C(CC1N(C(CNC1)=O)CC1=CC=C(C=C1)F)=O)C | C15H20FN3O2
